US04960783
6. 5-(Bromoacetyl)benzimidazole hydrobromide
1.21 g (7.6 mmol) of bromine in 5 ml of glacial acetic acid are added to a solution of 1.2 g (7.5 mmol) of 5-acetylbenzimidazole and 1.35 g of 48% strength aqueous HBr (=8 mmol of HB) in 15 ml of glacial acetic acid at room temperature. The mixture is stirred at 40° C. for 30 minutes and cooled and the product which has precipitated out is filtered off.

reactant | bromine | 7.6 mmol, 1.21 g | BrBr | Br2
reactant | 5-acetylbenzimidazole | 7.5 mmol, 1.2 g | C(C)(=O)C1=CC2=C(N=CN2)C=C1 | C9H8N2O
reactant | HBr | 8 mmol | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-(Bromoacetyl)benzimidazole hydrobromide | Br.BrCC(=O)C1=CC2=C(N=CN2)C=C1 | InChI=1S/C9H7BrN2O.BrH/c10-4-9(13)6-1-2-7-8(3-6)12-5-11-7;/h1-3,5H,4H2,(H,11,12);1H
